************************************************************************
* auCdl Netlist:
*
* Library Name:  TCG_Library
* Top Cell Name: npn_00p54x02p00
* View Name:     schematic
* Netlisted on:  Nov 24 10:21:29 2021
************************************************************************

*.BIPOLAR
*.RESI = 2000
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TCG_Library
* Cell Name:    npn_00p54x02p00
* View Name:    schematic
************************************************************************

.SUBCKT npn_00p54x02p00 I1_default_B I1_default_C I1_default_E I1_default_S C2 B2 E2
*.PININFO I1_default_B:I I1_default_C:I I1_default_E:I I1_default_S:I C2:I B2:I E2:I
QI1_default I1_default_C I1_default_B I1_default_E I1_default_S npn_00p54x02p00 NE=1
QI1_default C2 B2 E2 I1_default_S npn_00p54x02p00 NE=2
.ENDS



