.SUBCKT TOP sub isosub A
R1 sub A rm1 W=0.23u L=0.23u m=1 r=90m
R2 sub A rm1 W=0.23u L=0.23u m=1 r=90m
R3 isosub A rm1 W=0.23u L=0.23u m=1 r=90m
.ENDS

