************************************************************************
* auCdl Netlist:
*
* Library Name:  TCG_Library
* Top Cell Name: ppolyf_u_2k_6p0
* View Name:     schematic
* Netlisted on:  Nov 24 11:45:04 2021
************************************************************************

*.BIPOLAR
*.RESI = 2000
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!

*.PIN gnd!

************************************************************************
* Library Name: TCG_Library
* Cell Name:    ppolyf_u_2k_6p0
* View Name:    schematic
************************************************************************

.SUBCKT ppolyf_u_2k_6p0 I1_0_0_0_0_0_0_R0_MINUS I1_0_0_0_0_0_0_R0_PLUS
+ I1_0_0_0_1_0_0_R0_MINUS I1_0_0_0_1_0_0_R0_PLUS I1_0_0_1_0_0_0_R0_MINUS
+ I1_0_0_1_0_0_0_R0_PLUS I1_0_0_1_1_0_0_R0_MINUS I1_0_0_1_1_0_0_R0_PLUS
+ I1_0_0_2_0_0_0_R0_MINUS I1_0_0_2_0_0_0_R0_PLUS I1_0_0_2_1_0_0_R0_MINUS
+ I1_0_0_2_1_0_0_R0_PLUS I1_0_1_0_0_0_0_R0_MINUS I1_0_1_0_0_0_0_R0_PLUS
+ I1_0_1_0_1_0_0_R0_MINUS I1_0_1_0_1_0_0_R0_PLUS I1_0_1_1_0_0_0_R0_MINUS
+ I1_0_1_1_0_0_0_R0_PLUS I1_0_1_1_1_0_0_R0_MINUS I1_0_1_1_1_0_0_R0_PLUS
+ I1_0_1_2_0_0_0_R0_MINUS I1_0_1_2_0_0_0_R0_PLUS I1_0_1_2_1_0_0_R0_MINUS
+ I1_0_1_2_1_0_0_R0_PLUS I1_0_2_0_0_0_0_R0_MINUS I1_0_2_0_0_0_0_R0_PLUS
+ I1_0_2_0_1_0_0_R0_MINUS I1_0_2_0_1_0_0_R0_PLUS I1_0_2_1_0_0_0_R0_MINUS
+ I1_0_2_1_0_0_0_R0_PLUS I1_0_2_1_1_0_0_R0_MINUS I1_0_2_1_1_0_0_R0_PLUS
+ I1_0_2_2_0_0_0_R0_MINUS I1_0_2_2_0_0_0_R0_PLUS I1_0_2_2_1_0_0_R0_MINUS
+ I1_0_2_2_1_0_0_R0_PLUS I1_1_0_0_0_0_0_R0_MINUS I1_1_0_0_0_0_0_R0_PLUS
+ I1_1_0_0_1_0_0_R0_MINUS I1_1_0_0_1_0_0_R0_PLUS I1_1_0_1_0_0_0_R0_MINUS
+ I1_1_0_1_0_0_0_R0_PLUS I1_1_0_1_1_0_0_R0_MINUS I1_1_0_1_1_0_0_R0_PLUS
+ I1_1_0_2_0_0_0_R0_MINUS I1_1_0_2_0_0_0_R0_PLUS I1_1_0_2_1_0_0_R0_MINUS
+ I1_1_0_2_1_0_0_R0_PLUS I1_1_1_0_0_0_0_R0_MINUS I1_1_1_0_0_0_0_R0_PLUS
+ I1_1_1_0_1_0_0_R0_MINUS I1_1_1_0_1_0_0_R0_PLUS I1_1_1_1_0_0_0_R0_MINUS
+ I1_1_1_1_0_0_0_R0_PLUS I1_1_1_1_1_0_0_R0_MINUS I1_1_1_1_1_0_0_R0_PLUS
+ I1_1_1_2_0_0_0_R0_MINUS I1_1_1_2_0_0_0_R0_PLUS I1_1_1_2_1_0_0_R0_MINUS
+ I1_1_1_2_1_0_0_R0_PLUS I1_1_2_0_0_0_0_R0_MINUS I1_1_2_0_0_0_0_R0_PLUS
+ I1_1_2_0_1_0_0_R0_MINUS I1_1_2_0_1_0_0_R0_PLUS I1_1_2_1_0_0_0_R0_MINUS
+ I1_1_2_1_0_0_0_R0_PLUS I1_1_2_1_1_0_0_R0_MINUS I1_1_2_1_1_0_0_R0_PLUS
+ I1_1_2_2_0_0_0_R0_MINUS I1_1_2_2_0_0_0_R0_PLUS I1_1_2_2_1_0_0_R0_MINUS
+ I1_1_2_2_1_0_0_R0_PLUS I1_2_0_0_0_0_0_R0_MINUS I1_2_0_0_0_0_0_R0_PLUS
+ I1_2_0_0_1_0_0_R0_MINUS I1_2_0_0_1_0_0_R0_PLUS I1_2_0_1_0_0_0_R0_MINUS
+ I1_2_0_1_0_0_0_R0_PLUS I1_2_0_1_1_0_0_R0_MINUS I1_2_0_1_1_0_0_R0_PLUS
+ I1_2_0_2_0_0_0_R0_MINUS I1_2_0_2_0_0_0_R0_PLUS I1_2_0_2_1_0_0_R0_MINUS
+ I1_2_0_2_1_0_0_R0_PLUS I1_2_1_0_0_0_0_R0_MINUS I1_2_1_0_0_0_0_R0_PLUS
+ I1_2_1_0_1_0_0_R0_MINUS I1_2_1_0_1_0_0_R0_PLUS I1_2_1_1_0_0_0_R0_MINUS
+ I1_2_1_1_0_0_0_R0_PLUS I1_2_1_1_1_0_0_R0_MINUS I1_2_1_1_1_0_0_R0_PLUS
+ I1_2_1_2_0_0_0_R0_MINUS I1_2_1_2_0_0_0_R0_PLUS I1_2_1_2_1_0_0_R0_MINUS
+ I1_2_1_2_1_0_0_R0_PLUS I1_2_2_0_0_0_0_R0_MINUS I1_2_2_0_0_0_0_R0_PLUS
+ I1_2_2_0_1_0_0_R0_MINUS I1_2_2_0_1_0_0_R0_PLUS I1_2_2_1_0_0_0_R0_MINUS
+ I1_2_2_1_0_0_0_R0_PLUS I1_2_2_1_1_0_0_R0_MINUS I1_2_2_1_1_0_0_R0_PLUS
+ I1_2_2_2_0_0_0_R0_MINUS I1_2_2_2_0_0_0_R0_PLUS I1_2_2_2_1_0_0_R0_MINUS
+ I1_2_2_2_1_0_0_R0_PLUS I1_default_MINUS I1_default_PLUS gnd!
*.PININFO I1_0_0_0_0_0_0_R0_MINUS:I I1_0_0_0_0_0_0_R0_PLUS:I
*.PININFO I1_0_0_0_1_0_0_R0_MINUS:I I1_0_0_0_1_0_0_R0_PLUS:I
*.PININFO I1_0_0_1_0_0_0_R0_MINUS:I I1_0_0_1_0_0_0_R0_PLUS:I
*.PININFO I1_0_0_1_1_0_0_R0_MINUS:I I1_0_0_1_1_0_0_R0_PLUS:I
*.PININFO I1_0_0_2_0_0_0_R0_MINUS:I I1_0_0_2_0_0_0_R0_PLUS:I
*.PININFO I1_0_0_2_1_0_0_R0_MINUS:I I1_0_0_2_1_0_0_R0_PLUS:I
*.PININFO I1_0_1_0_0_0_0_R0_MINUS:I I1_0_1_0_0_0_0_R0_PLUS:I
*.PININFO I1_0_1_0_1_0_0_R0_MINUS:I I1_0_1_0_1_0_0_R0_PLUS:I
*.PININFO I1_0_1_1_0_0_0_R0_MINUS:I I1_0_1_1_0_0_0_R0_PLUS:I
*.PININFO I1_0_1_1_1_0_0_R0_MINUS:I I1_0_1_1_1_0_0_R0_PLUS:I
*.PININFO I1_0_1_2_0_0_0_R0_MINUS:I I1_0_1_2_0_0_0_R0_PLUS:I
*.PININFO I1_0_1_2_1_0_0_R0_MINUS:I I1_0_1_2_1_0_0_R0_PLUS:I
*.PININFO I1_0_2_0_0_0_0_R0_MINUS:I I1_0_2_0_0_0_0_R0_PLUS:I
*.PININFO I1_0_2_0_1_0_0_R0_MINUS:I I1_0_2_0_1_0_0_R0_PLUS:I
*.PININFO I1_0_2_1_0_0_0_R0_MINUS:I I1_0_2_1_0_0_0_R0_PLUS:I
*.PININFO I1_0_2_1_1_0_0_R0_MINUS:I I1_0_2_1_1_0_0_R0_PLUS:I
*.PININFO I1_0_2_2_0_0_0_R0_MINUS:I I1_0_2_2_0_0_0_R0_PLUS:I
*.PININFO I1_0_2_2_1_0_0_R0_MINUS:I I1_0_2_2_1_0_0_R0_PLUS:I
*.PININFO I1_1_0_0_0_0_0_R0_MINUS:I I1_1_0_0_0_0_0_R0_PLUS:I
*.PININFO I1_1_0_0_1_0_0_R0_MINUS:I I1_1_0_0_1_0_0_R0_PLUS:I
*.PININFO I1_1_0_1_0_0_0_R0_MINUS:I I1_1_0_1_0_0_0_R0_PLUS:I
*.PININFO I1_1_0_1_1_0_0_R0_MINUS:I I1_1_0_1_1_0_0_R0_PLUS:I
*.PININFO I1_1_0_2_0_0_0_R0_MINUS:I I1_1_0_2_0_0_0_R0_PLUS:I
*.PININFO I1_1_0_2_1_0_0_R0_MINUS:I I1_1_0_2_1_0_0_R0_PLUS:I
*.PININFO I1_1_1_0_0_0_0_R0_MINUS:I I1_1_1_0_0_0_0_R0_PLUS:I
*.PININFO I1_1_1_0_1_0_0_R0_MINUS:I I1_1_1_0_1_0_0_R0_PLUS:I
*.PININFO I1_1_1_1_0_0_0_R0_MINUS:I I1_1_1_1_0_0_0_R0_PLUS:I
*.PININFO I1_1_1_1_1_0_0_R0_MINUS:I I1_1_1_1_1_0_0_R0_PLUS:I
*.PININFO I1_1_1_2_0_0_0_R0_MINUS:I I1_1_1_2_0_0_0_R0_PLUS:I
*.PININFO I1_1_1_2_1_0_0_R0_MINUS:I I1_1_1_2_1_0_0_R0_PLUS:I
*.PININFO I1_1_2_0_0_0_0_R0_MINUS:I I1_1_2_0_0_0_0_R0_PLUS:I
*.PININFO I1_1_2_0_1_0_0_R0_MINUS:I I1_1_2_0_1_0_0_R0_PLUS:I
*.PININFO I1_1_2_1_0_0_0_R0_MINUS:I I1_1_2_1_0_0_0_R0_PLUS:I
*.PININFO I1_1_2_1_1_0_0_R0_MINUS:I I1_1_2_1_1_0_0_R0_PLUS:I
*.PININFO I1_1_2_2_0_0_0_R0_MINUS:I I1_1_2_2_0_0_0_R0_PLUS:I
*.PININFO I1_1_2_2_1_0_0_R0_MINUS:I I1_1_2_2_1_0_0_R0_PLUS:I
*.PININFO I1_2_0_0_0_0_0_R0_MINUS:I I1_2_0_0_0_0_0_R0_PLUS:I
*.PININFO I1_2_0_0_1_0_0_R0_MINUS:I I1_2_0_0_1_0_0_R0_PLUS:I
*.PININFO I1_2_0_1_0_0_0_R0_MINUS:I I1_2_0_1_0_0_0_R0_PLUS:I
*.PININFO I1_2_0_1_1_0_0_R0_MINUS:I I1_2_0_1_1_0_0_R0_PLUS:I
*.PININFO I1_2_0_2_0_0_0_R0_MINUS:I I1_2_0_2_0_0_0_R0_PLUS:I
*.PININFO I1_2_0_2_1_0_0_R0_MINUS:I I1_2_0_2_1_0_0_R0_PLUS:I
*.PININFO I1_2_1_0_0_0_0_R0_MINUS:I I1_2_1_0_0_0_0_R0_PLUS:I
*.PININFO I1_2_1_0_1_0_0_R0_MINUS:I I1_2_1_0_1_0_0_R0_PLUS:I
*.PININFO I1_2_1_1_0_0_0_R0_MINUS:I I1_2_1_1_0_0_0_R0_PLUS:I
*.PININFO I1_2_1_1_1_0_0_R0_MINUS:I I1_2_1_1_1_0_0_R0_PLUS:I
*.PININFO I1_2_1_2_0_0_0_R0_MINUS:I I1_2_1_2_0_0_0_R0_PLUS:I
*.PININFO I1_2_1_2_1_0_0_R0_MINUS:I I1_2_1_2_1_0_0_R0_PLUS:I
*.PININFO I1_2_2_0_0_0_0_R0_MINUS:I I1_2_2_0_0_0_0_R0_PLUS:I
*.PININFO I1_2_2_0_1_0_0_R0_MINUS:I I1_2_2_0_1_0_0_R0_PLUS:I
*.PININFO I1_2_2_1_0_0_0_R0_MINUS:I I1_2_2_1_0_0_0_R0_PLUS:I
*.PININFO I1_2_2_1_1_0_0_R0_MINUS:I I1_2_2_1_1_0_0_R0_PLUS:I
*.PININFO I1_2_2_2_0_0_0_R0_MINUS:I I1_2_2_2_0_0_0_R0_PLUS:I
*.PININFO I1_2_2_2_1_0_0_R0_MINUS:I I1_2_2_2_1_0_0_R0_PLUS:I
*.PININFO I1_default_MINUS:I I1_default_PLUS:I gnd!:I
RI1_2_2_2_1_0_0_R0 I1_2_2_2_1_0_0_R0_PLUS I1_2_2_2_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=8.0 l=100u w=50u r=4.0124K par=8.0 s=1
RI1_2_2_2_0_0_0_R0 I1_2_2_2_0_0_0_R0_PLUS I1_2_2_2_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=100u w=50u r=4.0124K par=1.0 s=8
RI1_2_2_1_1_0_0_R0 I1_2_2_1_1_0_0_R0_PLUS I1_2_2_1_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=3.0 l=100u w=50u r=4.0124K par=3.0 s=1
RI1_2_2_1_0_0_0_R0 I1_2_2_1_0_0_0_R0_PLUS I1_2_2_1_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=100u w=50u r=4.0124K par=1.0 s=3
RI1_2_2_0_1_0_0_R0 I1_2_2_0_1_0_0_R0_PLUS I1_2_2_0_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=100u w=50u r=4.0124K par=1.0 s=1
RI1_2_2_0_0_0_0_R0 I1_2_2_0_0_0_0_R0_PLUS I1_2_2_0_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=100u w=50u r=4.0124K par=1.0 s=1
RI1_2_1_2_1_0_0_R0 I1_2_1_2_1_0_0_R0_PLUS I1_2_1_2_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=8.0 l=100u w=50u r=4.0124K par=8.0 s=1
RI1_2_1_2_0_0_0_R0 I1_2_1_2_0_0_0_R0_PLUS I1_2_1_2_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=100u w=50u r=4.0124K par=1.0 s=8
RI1_2_1_1_1_0_0_R0 I1_2_1_1_1_0_0_R0_PLUS I1_2_1_1_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=3.0 l=100u w=50u r=4.0124K par=3.0 s=1
RI1_2_1_1_0_0_0_R0 I1_2_1_1_0_0_0_R0_PLUS I1_2_1_1_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=100u w=50u r=4.0124K par=1.0 s=3
RI1_2_1_0_1_0_0_R0 I1_2_1_0_1_0_0_R0_PLUS I1_2_1_0_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=100u w=50u r=4.0124K par=1.0 s=1
RI1_2_1_0_0_0_0_R0 I1_2_1_0_0_0_0_R0_PLUS I1_2_1_0_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=100u w=50u r=4.0124K par=1.0 s=1
RI1_2_0_2_1_0_0_R0 I1_2_0_2_1_0_0_R0_PLUS I1_2_0_2_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=8.0 l=100u w=50u r=4.0124K par=8.0 s=1
RI1_2_0_2_0_0_0_R0 I1_2_0_2_0_0_0_R0_PLUS I1_2_0_2_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=100u w=50u r=4.0124K par=1.0 s=8
RI1_2_0_1_1_0_0_R0 I1_2_0_1_1_0_0_R0_PLUS I1_2_0_1_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=3.0 l=100u w=50u r=4.0124K par=3.0 s=1
RI1_2_0_1_0_0_0_R0 I1_2_0_1_0_0_0_R0_PLUS I1_2_0_1_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=100u w=50u r=4.0124K par=1.0 s=3
RI1_2_0_0_1_0_0_R0 I1_2_0_0_1_0_0_R0_PLUS I1_2_0_0_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=100u w=50u r=4.0124K par=1.0 s=1
RI1_2_0_0_0_0_0_R0 I1_2_0_0_0_0_0_R0_PLUS I1_2_0_0_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=100u w=50u r=4.0124K par=1.0 s=1
RI1_1_2_2_1_0_0_R0 I1_1_2_2_1_0_0_R0_PLUS I1_1_2_2_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=8.0 l=50u w=3.62u r=28.0958K par=8.0 s=1
RI1_1_2_2_0_0_0_R0 I1_1_2_2_0_0_0_R0_PLUS I1_1_2_2_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=50u w=3.62u r=28.0958K par=1.0 s=8
RI1_1_2_1_1_0_0_R0 I1_1_2_1_1_0_0_R0_PLUS I1_1_2_1_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=3.0 l=50u w=3.62u r=28.0958K par=3.0 s=1
RI1_1_2_1_0_0_0_R0 I1_1_2_1_0_0_0_R0_PLUS I1_1_2_1_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=50u w=3.62u r=28.0958K par=1.0 s=3
RI1_1_2_0_1_0_0_R0 I1_1_2_0_1_0_0_R0_PLUS I1_1_2_0_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=50u w=3.62u r=28.0958K par=1.0 s=1
RI1_1_2_0_0_0_0_R0 I1_1_2_0_0_0_0_R0_PLUS I1_1_2_0_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=50u w=3.62u r=28.0958K par=1.0 s=1
RI1_1_1_2_1_0_0_R0 I1_1_1_2_1_0_0_R0_PLUS I1_1_1_2_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=8.0 l=7.6u w=3.62u r=4.37473K par=8.0 s=1
RI1_1_1_2_0_0_0_R0 I1_1_1_2_0_0_0_R0_PLUS I1_1_1_2_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=7.6u w=3.62u r=4.37473K par=1.0 s=8
RI1_1_1_1_1_0_0_R0 I1_1_1_1_1_0_0_R0_PLUS I1_1_1_1_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=3.0 l=7.6u w=3.62u r=4.37473K par=3.0 s=1
RI1_1_1_1_0_0_0_R0 I1_1_1_1_0_0_0_R0_PLUS I1_1_1_1_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=7.6u w=3.62u r=4.37473K par=1.0 s=3
RI1_1_1_0_1_0_0_R0 I1_1_1_0_1_0_0_R0_PLUS I1_1_1_0_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=7.6u w=3.62u r=4.37473K par=1.0 s=1
RI1_1_1_0_0_0_0_R0 I1_1_1_0_0_0_0_R0_PLUS I1_1_1_0_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=7.6u w=3.62u r=4.37473K par=1.0 s=1
RI1_1_0_2_1_0_0_R0 I1_1_0_2_1_0_0_R0_PLUS I1_1_0_2_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=8.0 l=7.24u w=3.62u r=4.17332K par=8.0 s=1
RI1_1_0_2_0_0_0_R0 I1_1_0_2_0_0_0_R0_PLUS I1_1_0_2_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=7.24u w=3.62u r=4.17332K par=1.0 s=8
RI1_1_0_1_1_0_0_R0 I1_1_0_1_1_0_0_R0_PLUS I1_1_0_1_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=3.0 l=7.24u w=3.62u r=4.17332K par=3.0 s=1
RI1_1_0_1_0_0_0_R0 I1_1_0_1_0_0_0_R0_PLUS I1_1_0_1_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=7.24u w=3.62u r=4.17332K par=1.0 s=3
RI1_1_0_0_1_0_0_R0 I1_1_0_0_1_0_0_R0_PLUS I1_1_0_0_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=7.24u w=3.62u r=4.17332K par=1.0 s=1
RI1_1_0_0_0_0_0_R0 I1_1_0_0_0_0_0_R0_PLUS I1_1_0_0_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=7.24u w=3.62u r=4.17332K par=1.0 s=1
RI1_0_2_2_1_0_0_R0 I1_0_2_2_1_0_0_R0_PLUS I1_0_2_2_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=8.0 l=50u w=1u r=105.185K par=8.0 s=1
RI1_0_2_2_0_0_0_R0 I1_0_2_2_0_0_0_R0_PLUS I1_0_2_2_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=50u w=1u r=105.185K par=1.0 s=8
RI1_0_2_1_1_0_0_R0 I1_0_2_1_1_0_0_R0_PLUS I1_0_2_1_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=3.0 l=50u w=1u r=105.185K par=3.0 s=1
RI1_0_2_1_0_0_0_R0 I1_0_2_1_0_0_0_R0_PLUS I1_0_2_1_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=50u w=1u r=105.185K par=1.0 s=3
RI1_0_2_0_1_0_0_R0 I1_0_2_0_1_0_0_R0_PLUS I1_0_2_0_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=50u w=1u r=105.185K par=1.0 s=1
RI1_0_2_0_0_0_0_R0 I1_0_2_0_0_0_0_R0_PLUS I1_0_2_0_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=50u w=1u r=105.185K par=1.0 s=1
RI1_0_1_2_1_0_0_R0 I1_0_1_2_1_0_0_R0_PLUS I1_0_1_2_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=8.0 l=7.6u w=1u r=16.3781K par=8.0 s=1
RI1_0_1_2_0_0_0_R0 I1_0_1_2_0_0_0_R0_PLUS I1_0_1_2_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=7.6u w=1u r=16.3781K par=1.0 s=8
RI1_0_1_1_1_0_0_R0 I1_0_1_1_1_0_0_R0_PLUS I1_0_1_1_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=3.0 l=7.6u w=1u r=16.3781K par=3.0 s=1
RI1_0_1_1_0_0_0_R0 I1_0_1_1_0_0_0_R0_PLUS I1_0_1_1_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=7.6u w=1u r=16.3781K par=1.0 s=3
RI1_0_1_0_1_0_0_R0 I1_0_1_0_1_0_0_R0_PLUS I1_0_1_0_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=7.6u w=1u r=16.3781K par=1.0 s=1
RI1_0_1_0_0_0_0_R0 I1_0_1_0_0_0_0_R0_PLUS I1_0_1_0_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=7.6u w=1u r=16.3781K par=1.0 s=1
RI1_0_0_2_1_0_0_R0 I1_0_0_2_1_0_0_R0_PLUS I1_0_0_2_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=8.0 l=2u w=1u r=4.64888K par=8.0 s=1
RI1_0_0_2_0_0_0_R0 I1_0_0_2_0_0_0_R0_PLUS I1_0_0_2_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=2u w=1u r=4.64888K par=1.0 s=8
RI1_0_0_1_1_0_0_R0 I1_0_0_1_1_0_0_R0_PLUS I1_0_0_1_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=3.0 l=2u w=1u r=4.64888K par=3.0 s=1
RI1_0_0_1_0_0_0_R0 I1_0_0_1_0_0_0_R0_PLUS I1_0_0_1_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=2u w=1u r=4.64888K par=1.0 s=3
RI1_0_0_0_1_0_0_R0 I1_0_0_0_1_0_0_R0_PLUS I1_0_0_0_1_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=2u w=1u r=4.64888K par=1.0 s=1
RI1_0_0_0_0_0_0_R0 I1_0_0_0_0_0_0_R0_PLUS I1_0_0_0_0_0_0_R0_MINUS gnd!
+ ppolyf_u_2k m=1.0 l=2u w=1u r=4.64888K par=1.0 s=1
RI1_default I1_default_PLUS I1_default_MINUS gnd! ppolyf_u_2k m=1.0
+ l=2u w=1u r=4.6488773K par=1.0 s=1
.ENDS

