.SUBCKT ppolyf_u_nwell MINUS PLUS W

R1 MINUS $1 W ppolyf_u L=35.7U W=0.8U
R2 $1 $2 W ppolyf_u L=35.7U W=0.8U
R3 $2 $3 W ppolyf_u L=35.7U W=0.8U
R4 $3 $4 W ppolyf_u L=35.7U W=0.8U
R5 $4 $5 W ppolyf_u L=35.7U W=0.8U
R6 $5 $6 W ppolyf_u L=35.7U W=0.8U
R7 $6 $7 W ppolyf_u L=35.7U W=0.8U
R8 $7 PLUS W ppolyf_u L=23U W=0.8U

.ENDS

